US07151108B2
Step A: 3-bromo-4-(1H-indol-3-yl)-1-methyl-1H-pyrrole-2,5-dione
A solution of 1.445 g of indole dissolved in 29 ml of dry tetrahydrofliran is brought to from −20 to −10° C. under argon, and then 26 ml of LiHMDS (1M in hexane) are added dropwise in the course of 15 minutes. After 45 minutes at −10° C., the solution is diluted with an additional 15 ml of tetrahydrofuran and a solution of 2 g of N-methyl-2,3-dibromomaleimide dissolved in 17 ml of tetrahydrofuran is added dropwise in the course of 30 minutes. After 15 minutes at −10° C. and 15 minutes at 0° C., the reaction is stopped by the addition, at 0° C., of 50 ml of a 0.3N hydrochloric acid solution. The reaction mixture is extracted with ethyl acetate, and the organic phases are washed with a saturated NaCl solution, dried over MgSO4 and then evaporated under reduced pressure. The desired product is precipitated using methanol.

reactant | indole | 1.445 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | LiHMDS | 1M, 26 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | N-methyl-2,3-dibromomaleimide | 2 g | CN1C(C(=C(C1=O)Br)Br)=O | C5H3Br2NO2
reactant | hydrochloric acid | 0.3N | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
product | 3-bromo-4-(1H-indol-3-yl)-1-methyl-1H-pyrrole-2,5-dione | BrC=1C(N(C(C1C1=CNC2=CC=CC=C12)=O)C)=O | C13H9BrN2O2
